US07932284B2
4-(1-(4-tetrahydropyranyl)-6-methanesulfonylamino-1H-indol-3-yl)-benzonitrile
4-(1-(4-tetrahydropyranyl)-6-nitro-1H-indol-3-yl)-benzonitrile: Add Cs2CO3 (2.54 g, 7.8 mmol) to a mixture of 4-(6-nitro-1H-indol-3-yl)-benzonitrile (1.591 g, 6 mmol), 4-(4-methylphenylsulfonyloxy)tetrahydropyran (2 g, 7.8 mmol) in DMF (25 ml) and under N2 atmosphere; heat the resulting mixture to 60° C. for 14 hours. After cooling, the reaction is poured into ice/water (200 ml) and 5N HCl (6 ml), sonicated, and filtered with Et2O wash to give 1:1 mixture of the title compound:starting material as a brownish red solid (1.202 g).

reactant | 4-(1-(4-tetrahydropyranyl)-6-nitro-1H-indol-3-yl)-benzonitrile | O1CCC(CC1)N1C=C(C2=CC=C(C=C12)[N+](=O)[O-])C1=CC=C(C#N)C=C1 | C20H17N3O3
reactant | Cs2CO3 | 7.8 mmol, 2.54 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-(6-nitro-1H-indol-3-yl)-benzonitrile | 6 mmol, 1.591 g | [N+](=O)([O-])C1=CC=C2C(=CNC2=C1)C1=CC=C(C#N)C=C1 | C15H9N3O2
reactant | 4-(4-methylphenylsulfonyloxy)tetrahydropyran | 7.8 mmol, 2 g | CC1=CC=C(C=C1)S(=O)(=O)OC1CCOCC1 | C12H16O4S
reactant | HCl | 5N, 6 ml | Cl | ClH
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 4-(1-(4-tetrahydropyranyl)-6-methanesulfonylamino-1H-indol-3-yl)-benzonitrile | O1CCC(CC1)N1C=C(C2=CC=C(C=C12)NS(=O)(=O)C)C1=CC=C(C#N)C=C1 | C21H21N3O3S
